US05489586
A solution of 3-(2-aminoethylamino)benzo[b]-thiophene-2-carboxylic acid methyl ester hydrochloride (339 mg, 1.18 mmol) and freshly prepared sodium methoxide (from 134 mg, 2.48 mmol of sodium) in 5 mL of methanol is heated at reflux for 18 hours. Upon cooling, the reaction is neutralized with 25 mL of 1N HCl and cooled to 0° C. for 1 hour. The resulting yellow crystalline material is filtered and dried under vacuum at 60° C. for several hours to provide 2,3-dihydro-1H-benzothieno-[3,2-e]-1,4-diazepin-5-one in 64% yield. Chromatography, eluting with a gradient of 2% methanol in ethyl acetate in 5% methanol in ethyl acetate, gives analytically pure, 2,3-dihydro-1H-benzothieno-[3,2-e]-1,4-diazepin-5-one, mp 210°-212° C.

reactant | 3-(2-aminoethylamino)benzo[b]-thiophene-2-carboxylic acid methyl ester hydrochloride | 1.18 mmol, 339 mg | Cl.COC(=O)C1=C(C2=C(S1)C=CC=C2)NCCN
reactant | sodium methoxide | 2.48 mmol, 134 mg | C[O-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2,3-dihydro-1H-benzothieno-[3,2-e]-1,4-diazepin-5-one | 64% yield | N1CCNC(C2=C1C1=C(S2)C=CC=C1)=O | C11H10N2OS
